US07291631B2
Using General Procedure B: Reaction of 5-Methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carbaldehyde from above with 2-[4-(5,6,7,8-Tetrahydro-quinolin-8-ylamino)-butyl]-isoindole-1,3-dione and NaBH(OAc)3 gave 2-{4-[[5-Methyl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazol-4-ylmethyl]-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-butyl}-isoindole-1,3-dione as a white foam. 1H NMR (CDCl3) 6-0.04 (s, 9H), 0.87 (t, 2H, J=8.1 Hz), 1.38-1.53 (m, 2H), 1.54-1.71 (m, 3H), 1.90-2.11 (m, 3H), 2.22 (s, 3H), 2.50-2.86 (m, 4H), 3.43 (t, 2H, J=8.3 Hz), 3.52-3.65 (m, 3H), 3.75 (d, 1H, J=13.1 Hz), 4.03-4.13 (m, 1H), 5.15 (s, 2H), 7.00 (dd, 1H, J=7.6, 4.7 Hz), 7.30 (d, 1H, J=6.2 Hz), 7.40 (s, 1H), 7.66-7.72 (m, 2H), 7.77-7.85 (m, 2H), 8.45 (dd, 1H, J=4.4, 1.5 Hz).

reactant | 5-Methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carbaldehyde | CC1=C(N=CN1COCC[Si](C)(C)C)C=O | C11H20N2O2Si
reactant | 2-[4-(5,6,7,8-Tetrahydro-quinolin-8-ylamino)-butyl]-isoindole-1,3-dione | N1=CC=CC=2CCCC(C12)NCCCCN1C(C2=CC=CC=C2C1=O)=O | C21H23N3O2
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 2-{4-[[5-Methyl-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazol-4-ylmethyl]-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-butyl}-isoindole-1,3-dione | CC1=C(N(C=N1)COCC[Si](C)(C)C)CN(CCCCN1C(C2=CC=CC=C2C1=O)=O)C1CCCC=2C=CC=NC12 | C32H43N5O3Si
